US06951932B2
Step C: Preparation of 6-chloro-2-hydroxy-9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)purine
2-Amino-6-chloro-9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)purine (42.7 g, 100 mmoles) is dissolved in 2 liters of a tert-butyl alcohol:water mixture (1:1, v/v) with heating. After cooling the solution with an ice bath, tert-butyl nitrite (50 mL, 422 mmoles) is added in one portion. The ice bath is removed and the mixture is stirred at room temperature until gas evolution ceases (approximately 3 hours). The mixture is then frozen (dry ice/2-propanol) and lyophilized to afford the desired intermediate as a yellow solid that is used immediately or stored frozen at −20° C. without purification.

reactant | 2-Amino-6-chloro-9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)purine | 100 mmoles, 42.7 g | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)Cl | C16H18ClN5O7
reactant | water | O | H2O
reactant | tert-butyl nitrite | 422 mmoles, 50 mL | N(=O)OC(C)(C)C | C4H9NO2
solvent | tert-butyl alcohol | 2 liters | C(C)(C)(C)O | C4H10O
product | 6-chloro-2-hydroxy-9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)purine | ClC1=C2N=CN(C2=NC(=N1)O)[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C16H17ClN4O8
